* v4 open-loop follower AC ff vdd=1.6 temp=125.0
.include "../../dut/neuron_core_oa_sky130.sp"
.lib __SKY130_LIB_SPICE__ ff
.temp 27

VVDD avdd1p2 0 DC 1.6
VVIP vinp 0 DC 0.9
VIREF in0u25_oa 0 DC 0
IIREF in0u25_oa 0 DC 0.25u
VDEN d_en_oa 0 DC 1.8
VDAZ d_az_oa 0 DC 0
VDINF d_inf_oa 0 DC 1.8
VDTR d_treset_oa 0 DC 0
VDTCKI d_tcki 0 DC 0
VDTDI d_tdi 0 DC 0
RVBASE vbase 0 1e12
RVFEED vfeed 0 1e12
RVTEST vtest 0 1e12
RDTCKO d_tcko 0 1e12
RDTDO d_tdo 0 1e12
VVINN vinn 0 DC 0
EFB vinn 0 vout 0 1
CLOAD vout 0 1p
RLOAD vout 0 1e9
XDUT avdd1p2 agnd vinp vinn vout in0u25_oa vbase vfeed d_en_oa d_az_oa d_inf_oa vtest d_treset_oa d_tcki d_tcko d_tdi d_tdo CmosInv_3e3a48af070f445359b4b2b4e367924b_
.save v(vout) v(vinp) i(VVDD)
.temp 125.0
.op
.ac dec 20 1.0 100000000.0
.end
